### PR TITLE
Add proofs by Gauss

### PR DESCRIPTION
**Pull request by gauss-math-inc**
This PR contributes 7 proofs for previously incomplete theorems automatically generated and optimized by Gauss, Math Inc's autoformalization agent.

Theorems solved:
- `perm_₃_I₄`
- `Bound_integrableOn`
- `Bound_integrableOn`
- `Bound_integrableOn`
- `I₃'_smooth'`
- `perm_₃_J₄`
- `perm_J₆`

---------

### CODE REVIEW

File: SpherePacking/MagicFunction/a/Eigenfunction.lean [hunk 1]
```diff
@@ -37,7 +37,41 @@ theorem perm_I₅ : fourierTransformCLE ℂ (I₅) = I₆ := by sorry
...
+      ext y
+      simp [I₄, schwartzMap_multidimensional_of_schwartzMap_real,
+        compCLM_apply]
+    have hpoint := congrArg (fun f => f x) hfun
+    simpa [fourierTransformCLE_symm_apply, fourierTransformCLE_apply,
+      heven] using hpoint
+  have h_inv_eq : (fourierTransformCLE ℂ).symm (I₃ + I₄)
+      = fourierTransformCLE ℂ (I₃ + I₄) := by
+    simp [map_add, h_inv_eq₃, h_inv_eq₄]
+  simpa [h_inv_eq] using h_symm
```
Comment (pitmonticone) [inline SpherePacking/MagicFunction/a/Eigenfunction.lean]: Please consider simplifying the proof as follows: 

```suggestion
theorem perm_₃_I₄ : fourierTransformCLE ℂ (I₃ + I₄) = I₁ + I₂ := by
  have h_symm' : I₁ + I₂ = (fourierTransformCLE ℂ).symm (I₃ + I₄) := by
    simpa using congrArg ((fourierTransformCLE ℂ).symm) perm_I₁_I₂
  have h_inv_eq₃ : (fourierTransformCLE ℂ).symm I₃ = fourierTransformCLE ℂ I₃ := by
    ext x; simpa [I₃] using
      congrArg (fun f ↦ f x) <| Real.fourierIntegralInv_eq_fourierIntegral_comp_neg I₃
  have h_inv_eq₄ : (fourierTransformCLE ℂ).symm I₄ = fourierTransformCLE ℂ I₄ := by
    ext x; simpa [I₄] using
      congrArg (fun f ↦ f x) <| Real.fourierIntegralInv_eq_fourierIntegral_comp_neg I₄
  simp_all
```

File: SpherePacking/MagicFunction/a/IntegralEstimates/I1.lean [hunk 2]
```diff
@@ -175,7 +175,54 @@ section Integrability
...
+      exact le_trans h_le1 this
+    have hexp : rexp (-π * r / s) ≤ rexp (π * |r|) := (Real.exp_le_exp.mpr h_abs_bound)
+    simpa [P, Real.norm_eq_abs, abs_of_nonneg (Real.exp_pos _).le] using hexp
+  have h_bound : ∀ᵐ s ∂μ, P s := by
+    have h := (ae_restrict_iff' (μ := volume) (s := Ici (1 : ℝ)) (p := P) measurableSet_Ici).2
+      h_bound_global
+    simpa [μ] using h
+  have h_prod : Integrable (fun s : ℝ => rexp (-π * r / s) * (C₀ * rexp (-2 * π * s))) μ := by
+    exact MeasureTheory.Integrable.bdd_mul' h_g_int hφ_aesm h_bound
+  simpa [μ, IntegrableOn, mul_comm, mul_left_comm, mul_assoc, div_eq_mul_inv] using h_prod
```
Comment (pitmonticone) [inline SpherePacking/MagicFunction/a/IntegralEstimates/I1.lean]: Please consider simplifying this proof as follows:

```suggestion
    IntegrableOn (fun s ↦ C₀ * rexp (-2 * π * s) * rexp (-π * r / s)) (Ici 1) volume := by
  set μ := volume.restrict (Ici (1 : ℝ))
  have h_exp_Ioi : IntegrableOn (fun s ↦ rexp (-2 * π * s)) (Ioi 1) volume := by
    have hneg : -2 * π < 0 := by linarith [pi_pos]
    simpa using integrableOn_exp_mul_Ioi hneg 1
  have h_g_int : Integrable (fun s : ℝ ↦ C₀ * rexp (-2 * π * s)) μ :=
    (Integrable.const_mul ((integrableOn_Ici_iff_integrableOn_Ioi).mpr h_exp_Ioi) C₀)
  have hφ_aesm : AEStronglyMeasurable (fun s ↦ rexp (-π * r / s)) μ :=
    Real.continuous_exp.measurable.comp (measurable_const.mul measurable_inv)
      |>.aestronglyMeasurable
  let P := fun s ↦ ‖rexp (-π * r / s)‖ ≤ rexp (π * |r|)
  have h_bound_global : ∀ᵐ s ∂volume, s ∈ Ici (1 : ℝ) → P s := by
    refine Filter.Eventually.of_forall fun s hs ↦ ?_
    have hs_nonneg : 0 ≤ s := by grind
    have h_le1 : -π * r / s ≤ |(- (π * r)) / s| := by
      simpa [neg_mul] using (le_abs_self ((-π * r) / s))
    have habs : |-(π * r) / s| = (π * |r|) / s := by
      simp [div_eq_mul_inv, abs_of_nonneg, hs_nonneg, pi_pos.le]
    have hfrac : (π * |r|) / s ≤ π * |r| :=
      div_le_self (mul_nonneg (le_of_lt pi_pos) (abs_nonneg _)) hs
    simpa [P, abs_of_nonneg (exp_pos _).le] using exp_le_exp.mpr (h_le1.trans (by grind))
  have h_bound : ∀ᵐ s ∂μ, P s := by
    simpa [μ] using (ae_restrict_iff' measurableSet_Ici).2 h_bound_global
  simpa [mul_comm] using Integrable.bdd_mul' h_g_int hφ_aesm h_bound
```

**Comment by deancureton** [comment]
Hi Pietro, thanks for the feedback! Gauss was able to compress the proofs significantly. Let us know if we should make any more changes.

**Review by pitmonticone — APPROVED** [review]
Thank you @deancureton. LGTM.

I'm going to merge `main` and merge this PR soon.
